US08871758B2
1-(Hydroxyphenylmethyl)cyclopropanesulfonamide
880 mg of N-tert-butyloxycarbonyl-1-(hydroxyphenylmethyl)cyclopropanesulfonamide were dissolved in 25 ml of ethyl acetate, and 13.4 ml of a 1 N aqueous hydrochloric acid were added. The reaction solution was heated to 65° C. and the completeness of the conversion was checked with LCMS. After 8 hours, the mixture was neutralized with saturated aqueous sodium carbonate solution, and the organic phase was dried over Na2SO4 and concentrated by rotary evaporation. This gave the product (610 mg) with a molecular weight of 227.3 g/mol (C10H13NO3S); MS (ESI): m/e=210 (M−H2O+H+).

reactant | N-tert-butyloxycarbonyl-1-(hydroxyphenylmethyl)cyclopropanesulfonamide | 880 mg | C(C)(C)(C)OC(=O)NS(=O)(=O)C1(CC1)C(C1=CC=CC=C1)O | C15H21NO5S
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 1-(Hydroxyphenylmethyl)cyclopropanesulfonamide | 610 mg | OC(C1(CC1)S(=O)(=O)N)C1=CC=CC=C1 | C10H13NO3S
